US09108939B2
A mixture of 1-fluoro-4-nitrobenzene (12.24 mmol, 1.726 g), 1-benzyl-N-methylpiperidin-4-amine (12.24 mmol, 2.5 g) and potassium carbonate (12.24 mmol, 1.691 g) was heated at 100° C. using an oil bath for 48 hours. The reaction mixture was allowed to cool to room temperature, diluted with dichloromethane and filtered. The filtrate was concentrated under vacuum to give the intermediate 1-benzyl-N-methyl-N-(4-nitrophenyl)piperidin-4-amine (3.8 g).

reactant | 1-fluoro-4-nitrobenzene | 12.24 mmol, 1.726 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-benzyl-N-methylpiperidin-4-amine | 12.24 mmol, 2.5 g | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | potassium carbonate | 12.24 mmol, 1.691 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-benzyl-N-methyl-N-(4-nitrophenyl)piperidin-4-amine | 3.8 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C19H23N3O2
